US08003656B2
F. 3-(4-Fluorophenyl)-2-thioxo-2,3-dihydropyrido[3,2-d]pyrimidin-4(1H)-one
A mixture of ethyl 3-aminopyridine-2-carboxylate (2.0 g, 12.0 mmol) and 4-fluorophenylisothiocyanate (1.84 g, 12.0 mmol) in 7 mL of anhydrous pyridine is stirred at 45° C. for 21 h. After cooling, the pyridine is evaporated in vacuo, and ice water is added to the residue. The resulting mixture is slurried in EtOAc and filtered to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.59 (1H, m), 7.79 (2H, m), 7.33 (4H, m).

reactant | ethyl 3-aminopyridine-2-carboxylate | 12.0 mmol, 2.0 g | NC=1C(=NC=CC1)C(=O)OCC | C8H10N2O2
reactant | 4-fluorophenylisothiocyanate | 12.0 mmol, 1.84 g | FC1=CC=C(C=C1)N=C=S | C7H4FNS
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-Fluorophenyl)-2-thioxo-2,3-dihydropyrido[3,2-d]pyrimidin-4(1H)-one | FC1=CC=C(C=C1)N1C(NC2=C(C1=O)N=CC=C2)=S | C13H8FN3OS
